US04740228
A 10% solution of ethyl 2-cyano-2-ethyl-2-phenylacetate in ethanol is saturated with ammonia under cooling. The reaction mixture is allowed to stand at 5° C. for 96 hours, thereafter the solvent and the excess of ammonia are removed, and the product is filtered off. 2-Cyano-2-ethyl-2-phenylacetic acid amide is obtained with a yield of 80%; m.p.: 116.5°-117° C.

reactant | ethyl 2-cyano-2-ethyl-2-phenylacetate | C(#N)C(C(=O)OCC)(C1=CC=CC=C1)CC | C13H15NO2
reactant | ammonia | N | H3N
solvent | ethanol | C(C)O | C2H6O
product | 2-Cyano-2-ethyl-2-phenylacetic acid amide | yield of 80% | C(#N)C(C(=O)N)(C1=CC=CC=C1)CC | C11H12N2O
